US08791134B2
4-Nitrosotetrahydro-2H-pyran-4-yl 2,2,3,3,3-pentafluoropropanoate was prepared from tetrahydro-pyran-4-one oxime, lead tetraacetate and pentafluoropropionic acid using conditions of General Method 3. 1H NMR (250 MHz, chloroform-d) δ 4.11-4.30 (2H, m), 3.46-3.83 (2H, m), 2.45-2.73 (2H, m), 1.68-2.02 (2H, m).

reactant | tetrahydro-pyran-4-one oxime | O1CCC(CC1)=NO | C5H9NO2
reactant | lead tetraacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | pentafluoropropionic acid | FC(C(C(=O)O)(F)F)(F)F | C3HF5O2
product | 4-Nitrosotetrahydro-2H-pyran-4-yl 2,2,3,3,3-pentafluoropropanoate | FC(C(=O)OC1(CCOCC1)N=O)(C(F)(F)F)F | C8H8F5NO4
